US05998436
Synthesis of 7-(3-aminoazetidin-1-yl)-1-(4-amino-5-fluoropyrimidin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 100 mg of N,N-dimethylformamide were added 25 mg of 1-(4-amino-5-fluoropyrimidin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 20 mg of 3-aminoazetidine dihydrochloride, and 50 mg of N-methylpyrrolidine, and the mixture was stirred at 90° C. for 1 hour. After adding 0.2 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 10 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 100 mg | CN(C=O)C | C3H7NO
reactant | 1-(4-amino-5-fluoropyrimidin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 25 mg | NC1=NC(=NC=C1F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O | C14H6ClF3N4O3
reactant | 3-aminoazetidine dihydrochloride | 20 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 50 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | 7-(3-aminoazetidin-1-yl)-1-(4-amino-5-fluoropyrimidin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 10 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC=C(C(=N1)N)F)C(=O)O)=O)F | C17H13ClF2N6O3
